US04370326
To a stirred solution of 7-[2-(2-amino-4-thiazolyl)glyoxyloylamino]-3-cephem-4-carboxylic acid (520 mg) in methanol (15 ml) was added sodium borohydride (100 mg) under ice-cooling, and stirred at the same temperature for 3 hours. Methanol was distilled off under reduced pressure from the reaction mixture, and the residue was dissolved in water (3 ml) and adjusted to pH 3 with 6 N-hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide to give 7-[2-(2-amino-4-thiazolyl)-2-hydroxyacetamido]-3-cephem-4-carboxylic acid (290 mg).

reactant | 7-[2-(2-amino-4-thiazolyl)glyoxyloylamino]-3-cephem-4-carboxylic acid | 520 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=O | C12H10N4O5S2
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 7-[2-(2-amino-4-thiazolyl)-2-hydroxyacetamido]-3-cephem-4-carboxylic acid | 290 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)O | C12H12N4O5S2
